US07662964B2
[1,4′]bipiperidinyl-1′-carbonyl chloride hydrochloride
Triphosgene (100 g) was dissolved in 1280 ml of methylene chloride. Solution of 129.5 g of 4-piperidinopiperidine was dissolved in 1280 ml of methylene chloride and this solution was added at 20-25° C. into the triphosgene solution while cooling the mixture (exothermic reaction). Part of the methylene chloride (1500 ml) was distilled off. Acetonitrile (580 ml) was added gradually. Methylene chloride was distilled off until the temperature rose to 63° C. Toluene (2000 ml) was added gradually. The mixture was cooled to room temperature. The crystalline compound was filtered and washed with toluene (about 1000 ml). The compound was dried under reduced pressure at about 40° C.

reactant | Triphosgene | 100 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-piperidinopiperidine | 129.5 g | N1(CCCCC1)C1CCNCC1 | C10H20N2
solvent | methylene chloride | 1280 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1280 ml | C(Cl)Cl | CH2Cl2
product | [1,4′]bipiperidinyl-1′-carbonyl chloride hydrochloride | Cl.N1(CCCCC1)C1CCN(CC1)C(=O)Cl | InChI=1S/C11H19ClN2O.ClH/c12-11(15)14-8-4-10(5-9-14)13-6-2-1-3-7-13;/h10H,1-9H2;1H
